US04436748
A mixture of 45 g of 6,7-dichloro-5-methoxybenzo[b]thiophene and 5 g of pyridine hydrochloride is stirred at 180° for 1 hour. The mixture is cooled, triturated with water and extracted thrice with ether. The ether solution is washed with water, dried and concentrated to give 0.42 g of 6,7-dichloro-5-hydroxybenzo[b]thiophene as a tan-colored solid. Recrystallization from acetone-hexane gives prisms, mp 97°-98°.

reactant | 6,7-dichloro-5-methoxybenzo[b]thiophene | 45 g | ClC=1C(=CC2=C(SC=C2)C1Cl)OC | C9H6Cl2OS
reactant | pyridine hydrochloride | 5 g | Cl.N1=CC=CC=C1
product | 6,7-dichloro-5-hydroxybenzo[b]thiophene | 0.42 g | ClC=1C(=CC2=C(SC=C2)C1Cl)O | C8H4Cl2OS
